US09260427B2
Prepared using General Procedure 2: To a stirring solution of 4-(heptyloxy)benzonitrile (1.0 g, 4.6 mmol) in EtOH (15 mL) were added hydroxylamine hydrochloride (0.96 g, 13.8 mmol) and TEA (2.22 g, 23.0 mmol). The reaction was heated to 85° C. for 2 h. The solvent was removed under reduced pressure and the residue was diluted with water (20 mL) and extracted with DCM (3×10 mL). The combined organic layers were concentrated under reduced pressure. The crude material was crystallized from isopropanol (20 mL) to afford 1.05 g (91%) of (Z)-4-(heptyloxy)-N′-hydroxybenzimidamide as a white solid. LCMS-ESI (m/z) calculated for C14H22N2O2: 250.2. found 251.3 [M+H]+, tR=1.70 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 9.45 (s, 1H), 7.59 (d, J=8.6 Hz, 2H), 6.93 (t, J=14.7 Hz, 2H), 5.82-5.48 (m, 2H), 3.97 (t, J=6.5 Hz, 2H), 1.83-1.55 (m, 2H), 1.56-1.05 (m, 8H), 0.87 (t, J=6.7 Hz, 3H). 13C NMR (101 MHz CDCl3) δ 159.19, 150.53, 126.64, 125.55, 113.87, 67.40, 31.21, 28.62, 28.40, 25.44, 22.02, 13.92.

reactant | 4-(heptyloxy)benzonitrile | 4.6 mmol, 1.0 g | C(CCCCCC)OC1=CC=C(C#N)C=C1 | C14H19NO
reactant | hydroxylamine hydrochloride | 13.8 mmol, 0.96 g | Cl.NO
solvent | EtOH | 15 mL | CCO | C2H6O
product | (Z)-4-(heptyloxy)-N′-hydroxybenzimidamide | 1.05 g, 91% | C(CCCCCC)OC1=CC=C(/C(/N)=N/O)C=C1 | C14H22N2O2
